US08222424B2
2-Chloro-5-(1-methyl-2-oxo-2,3,4,9-tetrahydro-1H-indeno[2,1-b]pyridine-7-carbonyl)-benzenesulfonamide
Under nitrogen, aluminum chloride (2.0 g, 15.06 mmol) is slurried in dichloromethane (100 mL) then 4-chloro-3-sulfamoyl-benzoyl chloride (1.28 g, 5.02 mmol) is added and allowed to stir at ambient temperature for 30 minutes. To this mixture 1-methyl-1,3,4,9-tetrahydro-indeno[2,1-b]pyridin-2-one (1.0 g, 5.02 mmol) is added in 13 mL dichloromethane. The reaction is allowed to stir at ambient temperature for 1 hour. The reaction mixture is poured over ice-water (300 mL) and extracted with dichloromethane, organic separated and concentrated to give crude title compound. Recrystallization from warm methanol afforded the title compound as a yellow powder (1.11 g, 53% yield). 1H NMR (MeOD) δ 2.77-2.83 (m, 4H), 3.28 (s, 3H), 3.59 (s, 2H), 5.17 (s, 2H), 7.19 (d, 1H, J=7.83 Hz), 7.68-7.73 (m, 2H), 7.86 (s, 1H), 7.94 (dd, 1H, J=2.27, 8.33 Hz), 8.46 (d, 1H, J=2.02 Hz). MS (m/z): 417 (M+1). M.P. 259-260° C.

reactant | aluminum chloride | 15.06 mmol, 2.0 g | [Cl-].[Al+3].[Cl-].[Cl-]
reactant | 4-chloro-3-sulfamoyl-benzoyl chloride | 5.02 mmol, 1.28 g | ClC1=C(C=C(C(=O)Cl)C=C1)S(N)(=O)=O | C7H5Cl2NO3S
reactant | 1-methyl-1,3,4,9-tetrahydro-indeno[2,1-b]pyridin-2-one | 5.02 mmol, 1.0 g | CN1C2=C(CCC1=O)C=1C=CC=CC1C2 | C13H13NO
solvent | dichloromethane | 100 mL | ClCCl | CH2Cl2
solvent | dichloromethane | 13 mL | ClCCl | CH2Cl2
product | 2-Chloro-5-(1-methyl-2-oxo-2,3,4,9-tetrahydro-1H-indeno[2,1-b]pyridine-7-carbonyl)-benzenesulfonamide | 1.11 g, 53% yield | ClC1=C(C=C(C=C1)C(=O)C1=CC=2CC=3N(C(CCC3C2C=C1)=O)C)S(=O)(=O)N | C20H17ClN2O4S
